US06645953B2
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N,N-dimethyl amide.
3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N,N-dimethyl amide (0.10 g) is dissolved in 5 ml of ethanol, 0.2 ml of 6N hydrogen chloride is added and the mixture is stirred at room temperature the weekend over. The product is precipitated with 10 ml of water, filtered and recrystallized from ethanol/heptan to give the title compound (59 mg). M.p. 192-195° C. 1H-NMR (CDCl3, 400 MHz)): δ=5.36 (1H, s); 3.24 (1H, m); 3.02 (3H, s); 2.94 (3H, s). Molecular weight: Calculated: 427.7. Found (by mass spectroscopy): 427.4.

reactant | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N,N-dimethyl amide | 0.10 g | CN(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O)C | C34H59NO2Si
reactant | hydrogen chloride | 6N, 0.2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N,N-dimethyl amide | 59 mg | CN(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C)=O)C | C28H45NO2
